US07538112B2
Step 1: N-[10-(Benzyloxy)-2-(4-fluorobenzyl)-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazin-4-yl]-N′-methylurea
A mixture of 4-amino-2-(4-fluorobenzyl)-10-benzyloxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione (75 mg, 168 μmol) and methylisocyanate (24 mg, 419 μmol) in anhydrous 1,2-dichloroethane (3 mL) was heated in a sealed tube in an oil bath at 100° C. overnight. The product mixture was concentrated under vacuum. The intermediate dicarbonimidic diamide was dissolved in methanol, treated with an aqueous solution of KOH (0.1 mL, 2 M), and stirred at room temperature for one hour, and concentrated under vacuum. The residue was partitioned between chloroform and dilute hydrochloric acid. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum to provide the title compound. ES MS M+1=505

reactant | 4-amino-2-(4-fluorobenzyl)-10-benzyloxy-8-methyl-7,8-dihydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazine-1,9(2H,6H)-dione | 168 μmol, 75 mg | NC1=NN(C(C2=C1N1C(=C2OCC2=CC=CC=C2)C(N(CC1)C)=O)=O)CC1=CC=C(C=C1)F | C24H22FN5O3
reactant | methylisocyanate | 419 μmol, 24 mg | CN=C=O | C2H3NO
solvent | 1,2-dichloroethane | 3 mL | ClCCCl | C2H4Cl2
product | N-[10-(Benzyloxy)-2-(4-fluorobenzyl)-8-methyl-1,9-dioxo-1,2,6,7,8,9-hexahydropyrazino[1′,2′:1,5]pyrrolo[2,3-d]pyridazin-4-yl]-N′-methylurea | C(C1=CC=CC=C1)OC1=C2N(C=3C(=NN(C(C31)=O)CC3=CC=C(C=C3)F)NC(=O)NC)CCN(C2=O)C | C26H25FN6O4
